US08071643B2
Step B. Thiobenzoic acid S-(4-tert-butoxycarbonylamino-2-oxo-cyclohexyl) ester
A mixture of thiobenzoic acid S-((1R,2R,4R)-4-tert-butoxycarbonylamino-2-hydroxy-cyclohexyl) ester+(1S,2S,4S) diastereomer (5 g, 14.2 mmol), 4 Å-molecular sieve (3 g) 1,1-dihydro-1,1,1-triacetoxy-1,2-benziodoxol-3(1H)-one (6.33 g, 15 mmol) in 100 ml of dichloromethane was stirred under argon at 5° C. for 1 hour and 1 hour at room temperature. The mixture was filtered over celite, dried and concentrated under vacuum to give the crude product. After chromatography of the mixture (silica, toluene/ethyl acetate=7/1) the title compound (toluene/ethyl acetate=3/1, Rf=0.48, 4.18 g, 84% yield) was obtained as a white solid.

reactant | thiobenzoic acid S-((1R,2R,4R)-4-tert-butoxycarbonylamino-2-hydroxy-cyclohexyl) ester | C(C)(C)(C)OC(=O)N[C@H]1C[C@H]([C@@H](CC1)SC(C1=CC=CC=C1)=O)O | C18H25NO4S
reactant | 1,1-dihydro-1,1,1-triacetoxy-1,2-benziodoxol-3(1H)-one | 15 mmol, 3 g | CC(=O)OI1(C2=CC=CC=C2C(=O)O1)(OC(=O)C)OC(=O)C | C13H13IO8
reactant | toluene ethyl acetate | C1(=CC=CC=C1)C.C(C)(=O)OCC
solvent | dichloromethane | 100 ml | ClCCl | CH2Cl2
product | Thiobenzoic acid S-(4-tert-butoxycarbonylamino-2-oxo-cyclohexyl) ester | 4.18 g, 84% yield | C(C)(C)(C)OC(=O)NC1CC(C(CC1)SC(C1=CC=CC=C1)=O)=O | C18H23NO4S
